US08114886B2
(6-Bromo-4-methylpyridin-3-yl)(2,5-difluorophenyl)methanol
In an argon atmosphere, a hexane solution of n-butyllithium M, 8.22 ml, 13.2 mmol) was added to a solution of 2,5-dibromo-4-methylpyridine (3.00 g, 12.0 mmol) in diethyl ether (120 ml) at −78° C. After stirring the reaction mixture for 30 minutes, 2,5-difluorobenzaldehyde (1.34 ml, 12.0 mmol) was added. After stirring for 1 hour at the same temperature, saturated aqueous ammonium chloride was added at room temperature. After the organic layer was separated, the organic layer was dried over anhydrous sodium sulfate and filtered, and then the filtrate was concentrated under reduced pressure. The resulting residue was subjected to flash silica gel chromatography. The fraction obtained from an elution with hexane:ethyl acetate=4:1 was concentrated under reduced pressure, to obtain the title compound (1.26 g, 4.01 mmol, 34%) as a white solid.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2,5-dibromo-4-methylpyridine | 12.0 mmol, 3.00 g | BrC1=NC=C(C(=C1)C)Br | C6H5Br2N
reactant | 2,5-difluorobenzaldehyde | 12.0 mmol, 1.34 ml | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 120 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | (6-Bromo-4-methylpyridin-3-yl)(2,5-difluorophenyl)methanol | 4.01 mmol, 1.26 g, 34% | BrC1=CC(=C(C=N1)C(O)C1=C(C=CC(=C1)F)F)C | C13H10BrF2NO
